US09382236B2
(2) 1-(4-tert-Butoxycarbonylaminophenyl)-6-methyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione
tert-Butyl 4-(2-amino-3-methylphenylamino)phenylcarbamate (294 mg, 0.938 m mmol) was dissolved in THF (30 mL), and then the solution was added dropwise with malonyl chloride (91 μL, 0.938 mmol) under ice cooling. After the disappearance of the starting materials was confirmed, the reaction mixture was added with aqueous sodium hydrogencarbonate, and ethyl acetate, and the organic layer was separated. The organic layer was washed with brine and water, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform to chloroform/methanol=100/1) to obtain the title compound (119 mg, yield 33%).

reactant | tert-Butyl 4-(2-amino-3-methylphenylamino)phenylcarbamate | 294 mg | NC1=C(C=CC=C1C)NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C18H23N3O2
reactant | malonyl chloride | 0.938 mmol, 91 μL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(4-tert-Butoxycarbonylaminophenyl)-6-methyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | 119 mg, yield 33% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)N1C(CC(NC2=C1C=CC=C2C)=O)=O | C21H23N3O4
